US05952350
1-[3-[3-[2-(4-Hydroxyphenyl)-6-hydroxynaphth-1-yl]phenyloxy]propyl]piperidine
In a manner similar to that used in Example 3, 0.75 g (1.45 mmol) of 1-[3-[3-[2-(4-methoxyphenyl)-6-methoxynaphth-1-yl]phenyloxy]propyl]piperidine hydrochloride and 0.34 mL (3.62 mmol) of BBr3 were converted to 0.6 g of the title compound, isolated a tan amorphous powder.

reactant | 1-[3-[3-[2-(4-methoxyphenyl)-6-methoxynaphth-1-yl]phenyloxy]propyl]piperidine hydrochloride | 1.45 mmol, 0.75 g | Cl.COC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C=1C=C(C=CC1)OCCCN1CCCCC1
reactant | BBr3 | 3.62 mmol, 0.34 mL | B(Br)(Br)Br | BBr3
product | 1-[3-[3-[2-(4-Hydroxyphenyl)-6-hydroxynaphth-1-yl]phenyloxy]propyl]piperidine | 0.6 g | OC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)O)C=1C=C(C=CC1)OCCCN1CCCCC1 | C30H31NO3
